US04946787
DOTMA (N-(1-(2,3,-Diolelyloxy)propyl)-N,N,N-trimethylammonium chloride) was prepared as outlined in FIG. 1. A mixture of 3-(dimethylamino)-1,2-propanediol (Aldrich Chemical Co., 1.19 g, 10 mmol), potassium tert-butoxide (3.36 g, 30 mmol) and oleyl p-toluenesulfonate (12.7 g, 30 mmol) in xylenes (50 ml) was stirred at room temperature and reduced pressure (30 Torr) for 30 min, and was then heated to 50° C. with stirring for an additional 15 min. The reaction vessel was purged with nitrogen, and the mixture was heated to reflux (approximately 140° C.) for 3 hrs. After cooling, the reaction mixture was diluted with hexane (100ml), and the resulting solution was extracted with water (2×50 ml). The organic layer was concentrated, and the residue was chromatographed over silica gel by elution with a mixture of hexanes and ether (1:2) to afford the intermediate 2,3-dioleyloxy-1-(dimethylamino)-propane as a colorless oil. Quaternization was carried out by condensation of methyl chloride (50 ml) into a Parr pressure apparatus cooled to -78° C. containing this compound (10 g). The sealed vessel was heated behind a safety shield at 70° C. for 48 h. After cooling to 0° C., the reaction vessel was opened, and the excess methyl chloride was allowed to evaporate under a stream of nitrogen in a well-ventilated hood. The crude residue was recrystallized from acetonitrile to afford DOTMA as an off-white solid, mp. 35°-38° C. Full details of the synthesis of DOTMA and analogs will be published elsewhere (Gadek and Felgner, in preparation).

reactant | 3-(dimethylamino)-1,2-propanediol | 10 mmol, 1.19 g | CN(CC(CO)O)C | C5H13NO2
reactant | potassium tert-butoxide | 30 mmol, 3.36 g | CC(C)([O-])C.[K+]
reactant | oleyl p-toluenesulfonate | 30 mmol, 12.7 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC)C | C25H42O3S
product | 2,3-dioleyloxy-1-(dimethylamino)-propane | C(CCCCCCC\C=C/CCCCCCCC)OC(CN(C)C)COCCCCCCCC\C=C/CCCCCCCC | C41H81NO2
